US05468742
2) Trans-1-benzoyl-3-bromo-4-(2-tosyloxyethoxy)-pyrrolidine
92 g (0,239 mol) of trans-1-benzoyl-3-bromo-4-(2-hydroxyethoxy)-pyrrolidine, 32 g (0.316 mol) of triethylamine, and 1 g of 4-dimethylaminopyridine are dissolved in 750 ml of toluene. 60 g (0.31 mol) of tosyl chloride in 450 ml of toluene are added dropwise. The batch is stirred two days at room temperature, water is added, and the aqueous phase separated and extracted with toluene. The toluene solutions are washed with 10% hydrochloric acid, dried over magnesium sulfate, concentrated, dissolved in ethyl acetate, and filtered through silica gel. The filtrate is concentrated.

reactant | trans-1-benzoyl-3-bromo-4-(2-hydroxyethoxy)-pyrrolidine | 0,239 mol, 92 g | C(C1=CC=CC=C1)(=O)N1C[C@H]([C@@H](C1)OCCO)Br | C13H16BrNO3
reactant | triethylamine | 0.316 mol, 32 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 0.31 mol, 60 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | Trans-1-benzoyl-3-bromo-4-(2-tosyloxyethoxy)-pyrrolidine | C(C1=CC=CC=C1)(=O)N1C[C@H]([C@@H](C1)OCCOS(=O)(=O)C1=CC=C(C)C=C1)Br | C20H22BrNO5S
